* C:\Users\dinhj\Desktop\Academia Repository\BEE Repository\BEE 331 Microelectronics and Circuits\Labs\BEE331_Lab_3\BEE331_Lab_3\SPICE\Draft3.asc
M1 N001 N003 Vout Vout PMOS
M2 N001 N002 Vout Vout PMOS
M3 Vout N003 N004 N004 NMOS
M4 N004 N002 0 0 NMOS
V1 N001 0 5
V§AInput N003 NC_01 PULSE(5 0 0 0.01m 0.01m 1m 2m)
V§BInput N002 NC_02 PULSE(5 0 0 0.01m 0.01m 0.5m 2m)
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\dinhj\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 5ms
.backanno
.end
